US06949648B2
1-(2-Pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
To a solution of 4-chloro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (14 g, 0.050 mol) in ethanol (600 mL), 6N hydrochloric acid (30 mL) was added and the mixture was heated under reflux for 12 hours. The reaction solution was allowed to cool to room temperature, and concentrated and evaporated under reduced pressure. The residue was made basic by addition of an aqueous sodium hydroxide solution, and the organic matter was extracted with chloroform. The extract was washed with saturated brine and water, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=96:4) to give the title compound (10.8 g, 82% yield).

reactant | 4-chloro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 0.050 mol, 14 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2)C2=NC=CC=C2 | C15H9ClN4
reactant | ethanol | 600 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 6N, 30 mL | Cl | ClH
product | 1-(2-Pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 10.8 g, 82% yield | N1=C(C=CC=C1)N1N=CC2=C1NC1=CC=CC=C1C2=O | C15H10N4O
